US06191124B1
A solution of 6,7-Dihydro-5H-cyclopent[d]imidazo[2,1-b]thiazole-3-carboxylic acid ethyl ester (Formula E-4) (5.8 g) in dry THF (125 mL) was treated with LiAlH4 (1.86 g) and reacted for 5.5 hours. After serial quenching with water and 15% sodium hydroxide, the suspension was diluted to 700 mL with chloroform. The filter cake was washed with hot chloroform, the combined filtrate and washes were evaporated to yield pure 6,7-Dihydro-5H-cyclopent[d]imidazo[2,1-b]thiazole-3-methanol (FIG. E-5) (2.67 g).

reactant | 6,7-Dihydro-5H-cyclopent[d]imidazo[2,1-b]thiazole-3-carboxylic acid ethyl ester | 5.8 g | C(C)OC(=O)C1=CN=C2SC3=C(N21)CCC3 | C11H12N2O2S
reactant | LiAlH4 | 1.86 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | 6,7-Dihydro-5H-cyclopent[d]imidazo[2,1-b]thiazole-3-methanol | 2.67 g | N=1C=C(N2C1SC1=C2CCC1)CO | C9H10N2OS
